US08232399B2
1-Phenylpropan-1-ol.
Procedure for the preparation of 1-(2-(methoxymethoxy)naphthalen-1-yl)-2-methyl-3-(triphenylsilyl)-1,2,3,4-tetrahydroisoquinoline: To a Schlenk under nitrogen, charged with diethyl ether (5 mL) and TMEDA (0.15 mL, 1.0 mmol), was added dropwise n-butyl lithium (1.6 M in hexanes, 1.6 mL, 2.5 mmol). After stirring at room temperature for 40 minutes, 1-(2-methoxymethoxy)naphthalen-1-yl)-2-methyl-1,2,3,4-tetrahydroisoquinoline (0.333 g, 1.0 mmol) in diethyl ether (5 mL) was added resulting in an orange solution. The mixture was stirred at room temperature for a further 3 hours, resulting in the formation of an orange/brown precipitate. After cooling the reaction mixture to 0° C., Ph3SiCl (0.737 g, 2.5 mmol) in diethyl ether (5 mL) was added. Stirring, while allowing the reaction mixture to warm to room temperature, gave way to a bright orange solution comprising an orange suspension. After stirring for an additional 24 hours, the mixture was quenched with an aqueous NH4Cl solution, extracted with dichloromethane, dried using MgSO4 and filtered. The solvent was subsequently removed under reduced pressure. The crude reaction mixture was purified by means of thin layer chromatography (hexanes/ethyl acetate/triethylamine 3:1:0.4) to yield the desired product (Rf=0.75).

reactant | 1-(2-(methoxymethoxy)naphthalen-1-yl)-2-methyl-3-(triphenylsilyl)-1,2,3,4-tetrahydroisoquinoline | COCOC1=C(C2=CC=CC=C2C=C1)C1N(C(CC2=CC=CC=C12)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C40H37NO2Si
reactant | TMEDA | 1.0 mmol, 0.15 mL | CN(C)CCN(C)C | C6H16N2
reactant | n-butyl lithium | 2.5 mmol, 1.6 M, 1.6 mL | C(CCC)[Li]
reactant | 2-methyl-1,2,3,4-tetrahydroisoquinoline | 1.0 mmol, 0.333 g | CN1CC2=CC=CC=C2CC1 | C10H13N
reactant | Ph3SiCl | 2.5 mmol, 0.737 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C18H15ClSi
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
product | 1-Phenylpropan-1-ol | C1(=CC=CC=C1)C(CC)O | C9H12O
